US07338974B2
(1S,4R,5S,8S,14R)-5-(3,5-Difluoro-benzyl)-4-hydroxy-18-methoxy-8-(2-oxo-pyrrolidin-1-yl)-13-oxa-2,6-diaza-tricyclo[12.6.1.015,20]henicosa-10,15(20),16,18-tetraen-7-one
Step I (2): The TFA salt of (S)—N-((2S,3R)-4-((1S,3R)-3-(Allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-difluorophenyl)-3-hydroxybutan-2-yl)-2-(2-oxopyrrolidin-1-yl)pent-4-enamide (diastereomer A, 10 mg, 0.0143 mmol) from stepG(1) was dissolved in 2 mL of CH2CL2. Added Hoveyda/Grubbs catalyst [(1,3-bis-(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(O-isoproproxylphenylmethylene)ruthenium] (2.4 mg, 2.9 μmol, Aldrich) and stirred at room temperature overnight. Evaporated to dryness. Dissolved in MeOH and filtered. The crude product was purified using reverse phase preparatory HPLC to give 5.5 mg (70% yield) of the title compound as its TFA salt: LC-MS (M+H)+=556.31; HRMS (M+H)+=556.2603; 1H NMR (500 MHz, CDCl3) δ 7.27-7.43 (m, 1H), 7.04-7.21 (m, 1H), 6.99 (d, J=8.24 Hz, 1H), 6.40-6.83 (m, 3H), 5.42-5.79 (m, 2H), 4.98 (d, J=5.49 Hz, 1H), 4.71 (d, J=5.49 Hz, 1H), 4.25-4.51 (m, 1H), 4.06 (d, J=8.24 Hz, 1H), 3.87-4.06 (m, 2H), 3.72-3.91 (m, 3H), 3.36-3.72 (m, 3H), 3.16-3.39 (m, 2H), 3.06-3.21 (m, 1H), 2.92-3.08 (m, 1H), 2.76-2.89 (m, 1H), 2.54-2.76 (m, 2H), 2.17-2.54 (m, 3H), 1.86 (dd, J=14.34, 7.32 Hz, 2H), 0.91-1.52 (m, 2H).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)—N-((2S,3R)-4-((1S,3R)-3-(Allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-difluorophenyl)-3-hydroxybutan-2-yl)-2-(2-oxopyrrolidin-1-yl)pent-4-enamide | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC([C@H](CC=C)N1C(CCC1)=O)=O)O | C32H39F2N3O5
catalyst | Grubbs catalyst | 2.9 μmol, 2.4 mg | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | (1S,4R,5S,8S,14R)-5-(3,5-Difluoro-benzyl)-4-hydroxy-18-methoxy-8-(2-oxo-pyrrolidin-1-yl)-13-oxa-2,6-diaza-tricyclo[12.6.1.015,20]henicosa-10,15(20),16,18-tetraen-7-one | 5.5 mg, 70% yield | FC=1C=C(C[C@H]2[C@@H](CN[C@@H]3C=4C=C(C=CC4[C@H](OCC=CC[C@@H](C(N2)=O)N2C(CCC2)=O)C3)OC)O)C=C(C1)F | C30H35F2N3O5
